US06599441B1
CAPS/NaOH pH 10.5.
A 1 M CAPS stock solution is adjusted to pH 10.5 with 50% (w/v) NaOH. A 10-fold dilution of this solution is used in the final crystallization solution formulations, if required.

reactant | CAPS | 1 M | C1CCC(CC1)NCCCS(=O)(=O)O | C9H19NO3S
reactant | NaOH | [OH-].[Na+]
product | CAPS NaOH | C1CCC(CC1)NCCCS(=O)(=O)O.[OH-].[Na+] | InChI=1S/C9H19NO3S.Na.H2O/c11-14(12,13)8-4-7-10-9-5-2-1-3-6-9;;/h9-10H,1-8H2,(H,11,12,13);;1H2/q;+1;/p-1
